US06320063B1
1,4-Bis[[2-(dimethylamino)ethyl]amino]-5,8-dihydroxyanthracene-9,10-dione (3: AQ4).
The solid dihydrochloride should be stored in a sealed container in a cold dark place (preferably a freezer). Before opening such containers they should be allowed to warm to room temperature, since the dihydrochloride (and AQ4N) absorb moisture particularly rapidly when cold.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | AQ4N | C[N+](C)(CCNC1=C2C(=C(C=C1)NCC[N+](C)(C)[O-])C(=O)C3=C(C=CC(=C3C2=O)O)O)[O-] | C22H28N4O6
product | 1,4-Bis[[2-(dimethylamino)ethyl]amino]-5,8-dihydroxyanthracene-9,10-dione | CN(CCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)NCCN(C)C)C | C22H28N4O4
